US04469703
Preparation of 1-cyclohexyl-2-nitro-1,3-diacetoxypropane
9.5 g (0.049 moles) of cyclohexanecarbaldehyde and 4.5 g (0.049 moles) of nitroethanol are introduced into a flask equipped with a stirrer and a thermometer. 0.3 ml of triethylamine are added, and the mixture is stirred at 0° C. for 10 hours. 15 ml of 0.5 n hydrochloric acid are introduced, the mixture is stirred for 30 minutes, thereafter 40 ml of ether are added and the mixture is stirred for additional 10 minutes. The etheral phase is separated and the aqueous phase is extracted twice with 20 ml of ether, each. The etheral phases are combined, washed with a saturated aqueous sodium chloride solution, the solvent is removed, and 15 g (0.197 moles) of acetic anhydride and 2 ml of acetyl chloride are added to the residue. The reaction mixture is stirred at 0° C., then heated to 50° C., stirred at this temperature for 2 hours and then poured onto 50 g of ice. The product is extracted from the resulting mixture with 50 ml of chloroform. The chloroform phase is washed twice with 50 ml of water, each, decolourized with activated carbon, filtered, and the solvent is removed from the filtrate. 10.5 g (77.35%) of the title compound are obtained. This substance is uniform according to thin layer chromatography; Rf =0.73 (adsorbent: silika gel GF 254; solvent: a 90:10:1 mixture of benzene, methanol and acetone).

reactant | cyclohexanecarbaldehyde | 0.049 moles, 9.5 g | C1(CCCCC1)C=O | C7H12O
reactant | nitroethanol | 0.049 moles, 4.5 g | [N+](=O)([O-])C(C)O | C2H5NO3
reactant | hydrochloric acid | Cl | ClH
reactant | acetic anhydride | 0.197 moles, 15 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | 1-cyclohexyl-2-nitro-1,3-diacetoxypropane | 10.5 g, 77.35% | C1(CCCCC1)C(C(COC(C)=O)[N+](=O)[O-])OC(C)=O | C13H21NO6
